US05952386
To a mixture of 6.3 g of 4-benzyloxy-3-ethyl-5-methylphenol, 3.2 g of triethylamine and 50 ml of chloroform was added dropwise 4.0 g of benzoyl chloride, while stirring at 0° C. After stirring at room temperature for 6 hours, the reaction mixture was concentrated under reduced pressure to give a residue. To the residue was added 100 ml of 10% hydrochloric acid, and the mixture was extracted with 100 ml of ethyl acetate. The ethyl acetate layer was successively washed 10% hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution and saturated saline solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure, which afforded 8.4 g of crude 4-benzyloxy-3-ethyl-5-methylphenyl benzoate (93% yield).

reactant | 4-benzyloxy-3-ethyl-5-methylphenol | 6.3 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)O)CC | C16H18O2
reactant | triethylamine | 3.2 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 4.0 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-benzyloxy-3-ethyl-5-methylphenyl benzoate | 8.4 g, 93% yield | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C(=C1)C)OCC1=CC=CC=C1)CC | C23H22O3
